US05481032
2.3 g (10 mmol) of 2-methyl-4-fluoro-4'-methylbenzophenone were added dropwise at 20° C., under inert gas, to 3.8 g (12 mmol) of 3-chloroperbenzoic acid (55%) in 40 ml of dichloromethane and 14.2 g (0.1 mol) of disodium hydrogenphosphate and the reaction mixture was then heated for 8 h at 40° C. It was monitored by gas chromatography and, if the conversion was incomplete, a further 2.5 g (8 mmol) of 3-chloroperbenzoic acid were added. 100 g of water were added 4 hours later and the mixture was neutralized with sodium hydrogencarbonate solution. The phases were separated, the aqueous phase was extracted with dichloromethane and the solvent was distilled off. The residue was boiled for 4 h with 100 g of 70% sulfuric acid and then poured on to 200 g of ice. Extraction and crystallization gave 1.15 g (7.5 mmol, 5%) of 2-methyl-4-fluorobenzoic acid. If the reaction is carried out under these conditions with 9.2 g (15 mmol) of ®Oxone (=potassium peroxomonosulfate) instead of with 3-chloroperbenzoic acid, essentially the same result is obtained.

reactant | 2-methyl-4-fluoro-4'-methylbenzophenone | 10 mmol, 2.3 g | CC1=C(C(=O)C2=CC=C(C=C2)C)C=CC(=C1)F | C15H13FO
reactant | 3-chloroperbenzoic acid | 12 mmol, 3.8 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | disodium hydrogenphosphate | 0.1 mol, 14.2 g | P(=O)(O)([O-])[O-].[Na+].[Na+]
reactant | 3-chloroperbenzoic acid | 8 mmol, 2.5 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | water | 100 g | O | H2O
product | 2-methyl-4-fluorobenzoic acid | 7.5 mmol, 1.15 g, 5% | CC1=C(C(=O)O)C=CC(=C1)F | C8H7FO2
